US09255056B2
In a reactor equipped with a stirrer, a cooling condenser, a dropping funnel and a thermometer were placed Z-7-decen-5-yn-yl chloride (170.7 g:1.0 mol), sodium acetate (98.4 g:1.2 mol), sodium iodide (8.9 g:0.06 mol) and N,N-dimethylacetamide (113.2 g), and stirred at from 120 to 125° C. for 6 hours. After the completion of the reaction was confirmed by gas chromatography, water (350.0 g) was added to the reaction mixture. The organic phase separated from the aqueous phase was washed with an aqueous 1.0% by weight sodium bicarbonate solution (250.0 g). The organic phase was subjected to removal of solvent under reduced pressure, followed by dehydration. The residue was then distilled under reduced pressure to obtain Z-7-decen-5-yn-yl acetate [bp: from 75 to 79° C./0.13 KPa, 181.4 g, 0.93 mol]. [Yield: 93.4%]

reactant | Z-7-decen-5-yn-yl chloride | 1.0 mol, 170.7 g | C(CCCC#C\C=C/CC)Cl | C10H15Cl
reactant | sodium acetate | 1.2 mol, 98.4 g | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylacetamide | 113.2 g | CN(C(C)=O)C | C4H9NO
catalyst | sodium iodide | 0.06 mol, 8.9 g | [I-].[Na+]
solvent | water | 350.0 g | O | H2O
product | Z-7-decen-5-yn-yl acetate | 0.93 mol, 181.4 g, Yield: 93.4% | C(C)(=O)OCCCCC#C\C=C/CC | C12H18O2
